data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
2230,2472,[CH3:16][O:17][C:18](=[O:19])[C:20]([C:21]([CH3:22])=[O:23])=[N+:24]([CH3:25])[N-:26][c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1.[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([C:7](=[O:8])[NH:9][CH3:10])[CH:11]2[CH:12]=[CH:13][CH:14]1[O:15]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]12[C:6]([C:7](=[O:8])[NH:9][CH3:10])([CH:11]3[CH:12]=[CH:13][CH:14]1[O:15]3)[N:26]([c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1)[N:24]([CH3:25])[C:20]2([C:18]([O:17][CH3:16])=[O:19])[C:21]([CH3:22])=[O:23],water,298.15,21.45973706050987,-11.283690779365251
4811,5492,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][O:12][C:13](=[O:14])[C:15]([C:16]([CH3:17])=[O:18])=[N+:19]([CH3:20])[C-:21]([CH3:22])[C:23]([CH3:24])=[O:25]>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[C:21]([CH3:22])([C:23]([CH3:24])=[O:25])[N:19]([CH3:20])[C:15]2([C:13]([O:12][CH3:11])=[O:14])[C:16]([CH3:17])=[O:18],water,298.15,31.86816928352904,2.5430269114668187
4689,5345,[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9].[N:10]#[C:11][C-:12]([N+:13]#[C:14][c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1)[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[C:14]([c:15]2[cH:16][cH:17][cH:18][cH:19][cH:20]2)=[N:13][C:12]1([C:11]#[N:10])[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1,water,298.15,17.965461696871053,-30.14477725570045
4991,5679,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][O:16][C:17](=[O:18])[c-:19]1[o+:20][c:21]([C:22]([CH3:23])=[O:24])[o:25][c:26]1=[O:27]>>[C:1]1(=[O:2])[C@@:3]2([O:4][CH3:5])[C@@:6]([O:7][CH3:8])([C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14])[C:19]1([C:17]([O:16][CH3:15])=[O:18])[O:20][C:21]2([C:22]([CH3:23])=[O:24])[O:25][C:26]1=[O:27],water,298.15,17.030928236544206,-0.5530212377427236
5177,5875,[CH3:10][NH:11][C:12](=[O:13])[C:14](=[NH+:15][C-:16]([C:17](=[O:18])[O:19][CH3:20])[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1)[C:27](=[O:28])[O:29][CH3:30].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][C:16]([C:17](=[O:18])[O:19][CH3:20])([c:21]2[cH:22][cH:23][cH:24][cH:25][cH:26]2)[NH:15][C:14]1([C:12]([NH:11][CH3:10])=[O:13])[C:27](=[O:28])[O:29][CH3:30],water,298.15,20.87446609301337,-10.671491712815897
2129,2363,[CH3:12][NH:13][C:14](=[O:15])[C:16]([c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1)=[N+:23]([CH3:24])[C-:25]([CH3:26])[C:27](=[O:28])[NH:29][CH3:30].[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([Cl:6])[CH:7]2[CH:8]=[CH:9][CH:10]1[O:11]2>>[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([Cl:6])[CH:7]2[CH:8]3[CH:9]([CH:10]1[O:11]2)[C:25]([CH3:26])([C:27](=[O:28])[NH:29][CH3:30])[N:23]([CH3:24])[C:16]3([C:14]([NH:13][CH3:12])=[O:15])[c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1,water,298.15,21.424239802535062,-47.23888114106083
2009,2231,[CH3:10][NH:11][C:12](=[O:13])[C:14](=[O+:15][C-:16]([c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1)[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1)[C:29]([CH3:30])=[O:31].[CH3:1][C:2]1=[C:3]([CH3:4])[CH:5]2[CH:6]=[CH:7][CH:8]1[O:9]2>>[CH3:1][C:2]12[C:3]([CH3:4])([CH:5]3[CH:6]=[CH:7][CH:8]1[O:9]3)[C:16]([c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1)([c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1)[O:15][C:14]2([C:12]([NH:11][CH3:10])=[O:13])[C:29]([CH3:30])=[O:31],water,298.15,38.07138209434768,-25.35510206482601
3786,4336,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH:11]#[N+:12][C-:13]([C:14]#[N:15])[c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1>>[CH2:1]1[C@H:2]2[C@@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[CH:11]=[N:12][C:13]2([C:14]#[N:15])[c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1,water,298.15,15.513219514391327,-37.58173768963676
3445,3915,[CH3:6][CH:7]=[NH+:8][C-:9]([C:10](=[O:11])[NH:12][CH3:13])[C:14](=[O:15])[NH:16][CH3:17].[NH2+:1]=[C:2]([NH2:3])[NH:4][CH3:5]>>[NH2+:1]1[C:2]([NH2:3])([NH:4][CH3:5])[C:9]([C:10](=[O:11])[NH:12][CH3:13])([C:14](=[O:15])[NH:16][CH3:17])[NH:8][CH:7]1[CH3:6],water,298.15,39.994775181557294,21.645649168424526
4975,5662,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][O:12][C:13](=[O:14])[C:15](=[O+:16][CH-:17][c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1)[C:24](=[O:25])[O:26][CH3:27]>>[CH2:1]1[C@@H:2]2[C@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[C:15]([C:13]([O:12][CH3:11])=[O:14])([C:24](=[O:25])[O:26][CH3:27])[O:16][CH:17]2[c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1,water,298.15,5.878233250167563,-32.6455790939988
4682,5338,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][N+:12](=[C:13]([C:14]#[N:15])[c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1)[C-:22]([C:23]#[N:24])[C:25]#[N:26]>>[CH2:1]1[C@H:2]2[C@@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[C:22]([C:23]#[N:24])([C:25]#[N:26])[N:12]([CH3:11])[C:13]2([C:14]#[N:15])[c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1,water,298.15,20.449386512760288,-13.961083641762404
